US08258293B2
1-Acetyl-6-amino-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline (25 mg) and AlCl3 (35 mg) in chlorobenzene (2 ml) was stirred for 1 h. The reaction mixture was quenched with water and in addition a solution of 2 M NaOH and ethyl acetate were added. The organic layer was separated, dried over MgSO4 and concentrated in vacuo.

reactant | 1-acetyl-6-(tert-butoxycarbonyl)amino-1,2-dihydro-2,2,4-trimethylquinoline | 25 mg | C(C)(=O)N1C(C=C(C2=CC(=CC=C12)NC(=O)OC(C)(C)C)C)(C)C | C19H26N2O3
reactant | AlCl3 | 35 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | chlorobenzene | 2 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Acetyl-6-amino-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=C(C=C1)Cl)(C)C | C20H23ClN2O
